US05302718
Ethyl 4-fluoro-2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)-sulfonyl]phenyl]ethenyl]benzoate
4-Ethenyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide (2.7 g, 10 mmol), ethyl 4-fluoro-2-hydroxy-5-iodobenzoate (3.6 g, 80%, 10 mmol), triethylamine (5 ml) and N,N-dimethylacetamide (5 ml) were mixed and heated to 50° C. Palladium acetate (40 mg) was added and the solution kept at 50° C. for 18 h. The solution was poured into water and the precipitate dissolved in chloroform. The solution was dried, applied on top of a short silica gel column and eluted with 30% isobutylmethylketone in toluene. The pure fractions were collected and evaporated to dryness. After trituration with acetonitrile the product crystallized. Yield 1.1 g.

reactant | 4-Ethenyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 10 mmol, 2.7 g | C(=C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C14H14N2O2S
reactant | ethyl 4-fluoro-2-hydroxy-5-iodobenzoate | 10 mmol, 3.6 g | FC1=CC(=C(C(=O)OCC)C=C1I)O | C9H8FIO3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | Palladium acetate | 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | Ethyl 4-fluoro-2-hydroxy-5-[2-[4-[(3-methyl-2-pyridinylamino)-sulfonyl]phenyl]ethenyl]benzoate | FC1=CC(=C(C(=O)OCC)C=C1C=CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C)O | C23H21FN2O5S
